US05130323
A mixture of (2S, 4R)-4-(4-chlorophenylsulfonylamino)-2-[(Z)-5-methoxycarbonyl-1-pentenyl]pyrrolidine (1.00 g), 3-picolylchloride hydrochloride (509 mg) and triethylamine (0.43 ml) in tetrahydrofuran (25 ml) was refluxed for 48 hours and the solution was diluted with chloroform (40 ml). The solution was washed successively with saturated aqueous sodium bicarbonate and brine, and the organic layer was dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was chromatographed on a silica gel (50 g) column with a mixture of chloroform and methanol (100:1) as an eluent to give (2S, 4R)-4-(4-chlorophenylsulfonylamino)-2[(Z)-5-methoxycarbonyl-1-pentenyl]-1-(3-pyridylmethyl)pyrrolidine (700 mg) as a pale brown oil.

reactant | (2S, 4R)-4-(4-chlorophenylsulfonylamino)-2-[(Z)-5-methoxycarbonyl-1-pentenyl]pyrrolidine | 1.00 g | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1C[C@H](NC1)\C=C/CCCC(=O)OC | C17H23ClN2O4S
reactant | 3-picolylchloride hydrochloride | 509 mg | Cl.N1=CC(=CC=C1)CCl
reactant | triethylamine | 0.43 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | (2S, 4R)-4-(4-chlorophenylsulfonylamino)-2[(Z)-5-methoxycarbonyl-1-pentenyl]-1-(3-pyridylmethyl)pyrrolidine | 700 mg | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1C[C@H](N(C1)CC=1C=NC=CC1)\C=C/CCCC(=O)OC | C23H28ClN3O4S
